US09340547B2
a) (S)-tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate
2.00 g (9.94 mmol) of 1-amino-N-phenyl-1H-pyrrole-2-carboxamide were dissolved in 50 mL of DMF. To this solution, 2.07 g (10.94 mmol) of (S)-2-(tert-butoxycarbonylamino)propanoic acid (purchased from Aldrich®, cat. no. 13, 451-1) and 2.10 g (10.95 mmol) of EDC.HCl were added and the resulting reaction mixture was stirred at room temperature overnight. The solvent was then evaporated under vacuum, the residue was taken up in ethyl acetate and the organic solution was washed with an aqueous solution of sodium bicarbonate and brine, it was dried over magnesium sulphate, filtered and the solvent was evaporated. The product was purified by flash chromatography (0-5% methanol in dichloromethane). 2.21 g (60% yield) of the final product were obtained as a white solid.

reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 9.94 mmol, 2.00 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 10.94 mmol, 2.07 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | EDC.HCl | 10.95 mmol, 2.10 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate | 2.21 g, 60% yield | O=C([C@H](C)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(NC1=CC=CC=C1)=O | C19H24N4O4
